US04243678
Analogously to Example 19, 9.0 g of ethyl 4-benzhydrylaminobutyrate and 4.3 g of diisopropylethylamine in 100 ml of benzene are reacted with 3.1 g of propionyl chloride. The reaction product is recrystallized from ethyl acetate/ligroin (1:1) to obtain 9.9 g (92.5% of theory) of ethyl N-propionyl-4-benzhydrylaminobutyrate (M.P. 83° to 85°).

reactant | ethyl 4-benzhydrylaminobutyrate | 9.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCC(=O)OCC | C19H23NO2
reactant | diisopropylethylamine | 4.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propionyl chloride | 3.1 g | C(CC)(=O)Cl | C3H5ClO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl N-propionyl-4-benzhydrylaminobutyrate | 9.9 g, 92.5% | C(CC)(=O)N(CCCC(=O)OCC)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H27NO3
